data/oMe_Silver.jsonl
{"reaction_id": "NR-306_1-C(c2ccccc2)(c3ccccc3)","level": "medium","name": "Thorpe-Ziegler Reaction","reactants_smiles": ["N#C[CH2]C(c2ccccc2)(c3ccccc3)[CH2]C#N","[O-]C(C)(C)C"],"products_smiles": ["N#CC1=C(N)CC(c2ccccc2)(c3ccccc3)C1"],"conditions": "tert-butoxide base","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N#C[C-][CH2]C(c2ccccc2)(c3ccccc3)[CH2]C#N","step_weight": 0,"rationale": "tert-Butoxide deprotonates the methylene flanked by nitriles due to the strong acidity from electron-withdrawing cyano groups, stabilizing the resulting carbanion via resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N#CC1C(=[N-])CC(c2ccccc2)(c3ccccc3)C1","step_weight": 0,"rationale": "The resonance-stabilized carbanion attacks the electrophilic carbon of the second nitrile intramolecularly, favored by proximity and relief of ring strain in forming a five-membered ring."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N#CC1C(=N)CC(c2ccccc2)(c3ccccc3)C1","step_weight": 0,"rationale": "Protonation of the imide anion occurs to neutralize charge, driven by the basicity of the anion and availability of proton donors in the medium."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N#CC1=C([NH-])CC(c2ccccc2)(c3ccccc3)C1","step_weight": 0,"rationale": "Deprotonation at the adjacent nitrogen generates an anionic intermediate, facilitated by the electron-withdrawing cyano group and conjugation with the C=N bond."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N#CC1=C(N)CC(c2ccccc2)(c3ccccc3)C1","step_weight": 0,"rationale": "Final protonation of the nitrogen anion yields the neutral amine, thermodynamically favored under the reaction conditions."}],"description": "Under strong basic conditions, tert-butoxide deprotonates a methylene between two nitriles, generating a stabilized carbanion. This nucleophile undergoes intramolecular attack on the other nitrile, forming a cyclic imine anion. Sequential proton transfers yield the neutral aminopyridine derivative."}
{"reaction_id": "NR-074_1-C(C)(C)C_2-CCCC(C)C_3-C(F)(F)F_4-CCCC(C)C","name": "Fries Rearrangement","level": "medium","reactants_smiles": ["c1(OC(=O)CCCC(C)C)c(C(C)(C)C)c(CCCC(C)C)cc(C(F)(F)F)c1"],"products_smiles": ["C(=O)(CCCC(C)C)c1c(O)c(C(C)(C)C)c(CCCC(C)C)cc1C(F)(F)F"],"conditions": "AlCl3","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "c1(OC(=[O+][Al-](Cl)(Cl)Cl)CCCC(C)C)c(C(C)(C)C)c(CCCC(C)C)cc(C(F)(F)F)c1","rationale": "AlCl3, a strong Lewis acid, coordinates to the ester carbonyl oxygen, withdrawing electron density and enhancing the carbonyl carbon's electrophilicity for subsequent bond cleavage."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[O+]#CCCCC(C)C.c1(O[Al-](Cl)(Cl)Cl)c(C(C)(C)C)c(CCCC(C)C)cc(C(F)(F)F)c1","rationale": "Heterolytic cleavage occurs as the polarized C–O bond breaks, favored by the stability of the acylium ion through resonance and the strong Al–O bond formation."},{"step": 3,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=O)(CCCC(C)C)C1=C(O[Al-](Cl)(Cl)Cl)C(C(C)(C)C)=C(CCCC(C)C)C=C1(C(F)(F)F)","rationale": "The acylium ion acts as a potent electrophile, undergoing electrophilic aromatic substitution at an activated ring position, driven by aromatic π-electron donation to stabilize the σ-complex."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(CCCC(C)C)c1c(O[Al](Cl)Cl)c(C(C)(C)C)c(CCCC(C)C)cc1C(F)(F)F","rationale": "Proton transfer from the σ-complex oxygen to the Al-bound oxygen restores aromaticity, facilitated by the Lewis acidic Al center stabilizing the alkoxide."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(CCCC(C)C)c1c(O)c(C(C)(C)C)c(CCCC(C)C)cc1C(F)(F)F","rationale": "Final proton transfer liberates the free phenolic OH, driven by the thermodynamic stability of the neutral product and release of AlCl3 for catalyst turnover."}],"description": "In the Fries rearrangement, AlCl3 coordinates to the ester carbonyl, increasing electrophilicity and promoting cleavage to generate an acylium ion. This electrophile undergoes intramolecular electrophilic aromatic substitution, followed by sequential proton transfers to restore aromaticity and yield the hydroxyaryl ketone."}
